US09120749B2
Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)methanone
Following general procedure D, (6-bromo-4-(4-(2-(dimethylamino)ethyl)phenyl amino)quinolin-3-yl)(cyclopropyl)methanone (100 mg, 0.23 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (98 mg, 0.34 mmol) to afford the desired product (66 mg, 55%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.46 (s, 1H), 8.21 (dd, J=8.8, 1.9 Hz, 1H), 8.01 (d, J=8.8 Hz, 1H), 7.89 (s, 1H), 7.56 (d, J=8.4 Hz, 2H), 7.46 (d, J=8.4 Hz, 2H), 7.23 (s, 2H), 3.40 (m, 2H), 3.22 (m, 2H), 2.98 (s, 6H), 2.90 (m, 1H), 1.22 (m, 4H); ESI MS m/z 520 [C29H27Cl2N3O2+H]+; HPLC 97.6% (AUC), tR=11.15 min.

reactant | (6-bromo-4-(4-(2-(dimethylamino)ethyl)phenyl amino)quinolin-3-yl)(cyclopropyl)methanone | 0.23 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CCN(C)C | C23H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.34 mmol, 98 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(2-(dimethylamino)ethyl)phenylamino)quinolin-3-yl)methanone | 66 mg, 55% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)CCN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C29H27Cl2N3O2
